US05559256
Trichloromethyl chloroformate (1.08 mL) was added to a stirred suspension of L-valine methyl ester hydrochloride (3.0 g, 17.9 mmol) in 10 mL dry dioxane. The mixture was refluxed for 1.5 h, concentrated, and the residue flash distilled (bath temperature 100°-125° C., 0.5 mm vacuum) to afford 1.0 g of L-valine methyl ester isocyanate. A solution of 0.55 g (3.5 mmol) of L-valine methyl ester isocyanate in 7.5 mL dry toluene was treated with 4M HCl in dioxane (79 mL, 0.315 mmol) at RT and stirred for 5 min. The resulting mixture was treated with 1.0 g solid K2HPO4 for 5 min, followed by the addition of Compound 104b (0.464 g, 3.15 mmol). The mixture was refluxed for 9 h, diluted with EtOAc and washed with sat. NaHCO3 followed by brine. The organic phase was dried (MgSO4), concentrated, and the crude product purified by flash chromatography (silica gel/hexane to EtOAc-hexane 1:9 to 1:4, stepwise gradient) to afford 0.51 g (53%) of Compound 104c as a yellow gummy solid.

reactant | Trichloromethyl chloroformate | 1.08 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | L-valine methyl ester hydrochloride | 17.9 mmol, 3.0 g | Cl.COC([C@@H](N)C(C)C)=O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | L-valine methyl ester isocyanate | 1.0 g | [N-]=C=O.COC([C@@H](N)C(C)C)=O | InChI=1S/C6H13NO2.CNO/c1-4(2)5(7)6(8)9-3;2-1-3/h4-5H,7H2,1-3H3;/q;-1/t5-;/m0./s1
